Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Hypokalemia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y.o. female with bulemia, recently released from treatment in 
___ (2.3mo where she feels she was able to gain weight), who 
presented to ED as f/u of incidental hypokalemia to 2.3 (at her 
PCP's office yesterday) and increasing purging and binging. For 
these reasons she was referred to ED. Since her last admission 
to ___, patient has been in treatment programs at ___, then 
spent ~ 1mo at home prior to enrolling in the Eating d/o program 
at ___ day treatment program form where she 
transferred to the ___ treatment program.  
.  
Upon returning she reports loss of social support systems, 
inability to control her persistent distortion of her body 
image, that has lead to recurrent feelings of guilt, further 
binging and purging. She reports weight loss, but can not 
quantify this as weighing herself is a trigger. Her LMP was 
___, she denies HAs, abdominal pain, diarrhea, use of 
laxatives, diuretics, emetics or exercise (last exercise in 
___). She reports using excessive amounts of caffeine, 5cups in 
AM followed by 2 2L bottles of caffeinated soda. She denies 
depressed mood currently, but reports feelings of sadness and 
isolation x 2wks. She denies SI. She reports purging after every 
meal over past two weeks. She denies palpitations, 
lightheadedness, chest pain, cramping. She denies paresthesias, 
difficulties with balance.  
.  
In the ED an EKG was performed which did not show U waves, but 
showed QTc of 490. She was given IV NS likely over 2L (not 
clearly documented), 40 mEq of PO and IV potassium and admitted 
to the floor for further management of bulemia and hypokalemia.  

.  
On the floor, pt. was in NAD, nl affect, somewhat saddened mood. 
Her VS were 97.5F 97/60, 63, 18, 99RA. She denies any pain, 
nausea.  

 
Past Medical History:
-Bulemia  
-Bradycardia  
-Osteopenia  
-Enamel loss
 
Social History:
___
Family History:
Non-contributory, no psych history  
M - Healthy  
F - Healthy  

 
Physical Exam:
Vitals: T 97.5F 97/60, 63, 18, 99RA, Orthostatics Supine 92/54, 
60, Standing 90/70, 92.  
General: Awake, alert, well-appearing, NAD.  
HEENT: NC/AT; PERRLA, EOMI; Enlarged bilateral parotid glands, 
tender to touch; OP clear, dry MM, nonertythematous  
Neck: Supple, no LAD  
Chest/CV: S1, S2 nl, no m/r/g appreciated, slow rate, regular 
rhythm  
Lungs: CTAB  
Abd: Soft, NT, ND, + BS, negative ___ sign  
Ext: No c/c/e  
Skin: Notably tanned, but otherwise no skin lesions  
Neuro: see above for eye CN, V, VII - XII intact. Moves all 
extremities, LT and temperature senstion intact.  
Patient appears somewhat dysphoric, mood is "ok", nl affect, 
able to respond to humor. Well gromed, nl eye contact. Pt. has 
excellent insight into her condition. Attention grossly intact.  


 
Pertinent Results:
___ 12:45PM BLOOD WBC-7.5 RBC-4.86 Hgb-14.4 Hct-39.5 
MCV-81* MCH-29.7 MCHC-36.5* RDW-12.6 Plt ___
___ 07:25PM BLOOD WBC-8.0 RBC-4.73 Hgb-14.3 Hct-38.2 
MCV-81* MCH-30.4 MCHC-37.7* RDW-13.6 Plt ___
___ 06:20AM BLOOD WBC-5.9 RBC-4.15* Hgb-12.4 Hct-33.4* 
MCV-80* MCH-29.8 MCHC-37.1* RDW-13.5 Plt ___
___ 10:50AM BLOOD WBC-5.4 RBC-3.85* Hgb-11.6* Hct-32.3* 
MCV-84 MCH-30.2 MCHC-36.0* RDW-13.4 Plt ___
___ 05:10AM BLOOD WBC-6.9 RBC-3.76* Hgb-11.2* Hct-31.7* 
MCV-84 MCH-29.7 MCHC-35.3* RDW-13.2 Plt ___
___ 12:45PM BLOOD UreaN-9 Creat-1.0 Na-138 K-2.3* Cl-95* 
HCO3-31 AnGap-14
___ 07:25PM BLOOD Glucose-97 UreaN-9 Creat-1.0 Na-137 
K-2.5* Cl-96 HCO3-28 AnGap-16
___ 06:20AM BLOOD Glucose-84 UreaN-10 Creat-1.0 Na-141 
K-3.3 Cl-105 HCO3-26 AnGap-13
___ 03:45PM BLOOD Glucose-98 UreaN-13 Creat-0.9 Na-138 
K-3.4 Cl-105 HCO3-25 AnGap-11
___ 10:50AM BLOOD Glucose-83 UreaN-11 Creat-0.9 Na-141 
K-4.1 Cl-109* HCO3-24 AnGap-12
___ 05:10AM BLOOD Glucose-86 UreaN-11 Creat-PND Na-142 
K-3.7 Cl-115* HCO3-20* AnGap-11
___ 12:45PM BLOOD ALT-18 AST-24 AlkPhos-107 Amylase-135* 
TotBili-1.8*
___ 06:20AM BLOOD ALT-12 AST-18 AlkPhos-86 Amylase-99 
TotBili-1.6*
___ 03:45PM BLOOD TotBili-1.3
___ 12:45PM BLOOD TotProt-8.4* Albumin-5.2* Globuln-3.2 
Calcium-9.8 Phos-3.7 Mg-2.3
___ 06:20AM BLOOD Albumin-4.4 Calcium-9.0 Phos-3.4 Mg-2.2 
Iron-141
___ 03:45PM BLOOD Calcium-8.7 Phos-3.3 Mg-1.9
___ 10:50AM BLOOD Calcium-9.2 Phos-3.3 Mg-1.8
___ 05:10AM BLOOD Calcium-8.7 Phos-3.4 Mg-1.8
___ 06:20AM BLOOD calTIBC-220* ___ Ferritn-20 TRF-169*

___ 02:13PM URINE Color-Yellow Appear-Cloudy Sp ___
___ 02:13PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-9.0* Leuks-NEG
___ 02:13PM URINE ___ Bacteri-NONE Yeast-NONE 
___ 02:13PM URINE Hours-RANDOM Creat-233 Na-91 K-GREATER TH
___ 02:13PM URINE Osmolal-679

Studies/Imaging:

ECG ___: 

Sinus rhythm. Prolonged Q-T interval. Diffuse non-specific ST-T 
wave 
abnormalities. Compared to the previous tracing of ___ the 
rate is faster 
and ST-T wave abnormalities are slightly more prominent. 
TRACING #1 
  
 
Read by: ___. 
 
  Intervals Axes 
Rate PR QRS QT/QTc P QRS T 
69 160 88 ___ 39 
 
ECT ___:

Sinus rhythm. Slightly prolonged Q-T interval. Minor 
non-specific 
ST segment abnormalities. Compared to the previous tracing of 
___ 
ST-T wave changes are less.  
TRACING #2 
  
 
Read by: ___. 
 
  Intervals Axes 
Rate PR QRS QT/QTc P QRS T 
62 184 ___ ___ y.o. female with recalcitrant bulemia, here with hypokalemia. 
The cause of exacerbation is unclear, but this has been a 
chronic problem that worsens when patient is out of a structured 
eating disorder setting. Throughout admission patient was 
adhering to eating d/o protocol, under 1:1 observation and was 
medically stable.  
.  
# Hypokalemia. Similar to previous admissions. It was deemed 
likely due to renal losses ___ volume contraction.  Pt was 
volume depleted due to purging with subsequent K+ renal wasting 
w/ increased ___.  No clinical sx w/ exception of QTc 
prolongation, which is chronic. Patient K on discharge was 3.7.
.  
# Bulemia: Long-standing disorder that has been best controlled 
in structured settings.  Weight on admission was 120lbs, on HD2 
was 123 lbs. BMI - 19. Ideal body wt. is 130lbs based on Ht, 
patient was above 75% percentile. Prior to admission patient was 
in cycle of severe binging and purging with persistent feelings 
of guilt and poor body image.  Pt. has osteopenia as reported in 
OMR notes. T.bili and Amylase were elvated on admission, but 
normalized w/ volume repletion. No purging episodes during 
admission were noted.  She received MVI and thiamine per 
protocol.  She was continued on Topamax and Celexa as per OP 
regimen.  CL psychiatry was consulted.  Per discussion with 
psychiatry and pt. it was felt that she may benefit from partial 
hospital program for eating d/o.  This was arranged for her at 
___ (please see discharge plan).  At discharge, her 
weight was 130lbs.
.  
# Depression.  Patient continued to have feelings of guilt and 
sadness.  No suicidal ideation.  Her mood improved moderately on 
discharge and patient reported being hopeful for the partial 
hospital program.  SSRI was continued as above.
.  
# Bradycardia: Chronic in this former athletic patient, likely 
worsened by eating disorder. Patient was asymptomatic.    
.  
# Anemia - HCT drop from 38 to 33. Microcytic anemia w/ nl Fe 
studies.  Repeat Fe studies were did not fit a typical patter 
for Fe defficiency or ACD.  These findings were observed during 
previous hospitalizations with patient rebounding in outpatient 
setting.  She was hemodynamically stable.  This will require OP 
f/u.  PCP aware and has acccess to ___ laboratory values.
.  
Patient was on heparin SC for DVT prevention and was discharged 
home in a hemodynamically stable condition w/o episodes of 
purging or binging during hospital stay, with weight gain and 
appropriate follow up.
 
Medications on Admission:
1. Topiramate 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Citalopram 40 mg Tablet Sig: Two (2) Tablet PO once a day.  
 
Discharge Medications:
1. Topiramate 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Citalopram 40 mg Tablet Sig: Two (2) Tablet PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Hypokalemia
Secondary: Bulimia

 
Discharge Condition:
Stable

 
Discharge Instructions:
You were admitted to the hospital for a low potassium level in 
your blood stream and for exacerbation of your bulemia.  You 
were given potassium  supplementation with correction of your 
lab values.  You were also maintained on a diet and observation 
designed for bulimia.  You gained weight to nearly your ideal 
body weight.  
.
Should you develop chest pain, heart palpitations, vomiting of 
blood or any other symptoms that are new or of concern to you, 
please contact your primary care physician immediately or return 

to the Emergency Department.
.
You were discharged in a stable condition with follow up 
arranged for partial hospital management of your bulimia.

 
Followup Instructions:
___